US06559145B2
Methyl ((2-Amino-5-methylphenyl)sulfonyl)acetate [BX.3]
Palladium (10%) on carbon is added to a solution of methyl ((5-methyl-2-nitro-phenyl)sulfonyl)acetate (Preparation 37, 2.0 g) in MeOH (60 mL) and the solution is shaken on a Parr apparatus under 30 psi of hydrogen. After 3 hours the solution is filtered through Celite and the filter cake eluted with MeOH (60 mL). The combined MeOH eluant is evaporated and the remaining residue placed under high vacuum overnight to obtain 1.76 g (99%) of the title compound as a dark solid. Physical characteristics: MS (ESI+) m/z 244 (M+H).

reactant | methyl ((5-methyl-2-nitro-phenyl)sulfonyl)acetate | 2.0 g | CC=1C=CC(=C(C1)S(=O)(=O)CC(=O)OC)[N+](=O)[O-] | C10H11NO6S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | Methyl ((2-Amino-5-methylphenyl)sulfonyl)acetate | 1.76 g, 99% | NC1=C(C=C(C=C1)C)S(=O)(=O)CC(=O)OC | C10H13NO4S
